US04371700
28.45 g (0.1 mol) of 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one and 43.25 g (0.1 mol) of formic acid/triethylamine (5:2 addition compound) were heated to 145° to 150° C. for 4.5 to 5 hours. The reaction mixture was allowed to cool and was concentrated in vacuo. The residue was taken up in dilute sodium hydroxide solution and the mixture was extracted with methylene chloride. The organic phase was washed with water, dried over sodium sulphate and concentrated in vacuo. The residue was suspended in hot cyclohexane, the suspension was filtered hot and the solid was dried. 18.2 g (63.6% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol of melting point 114°-116° C. were obtained.

reactant | 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 0.1 mol, 28.45 g | ClC1=CC=C(OC(C(C(C)(C)C)=O)N2N=CN=C2)C=C1 | C14H16ClN3O2
reactant | formic acid triethylamine | 0.1 mol, 43.25 g | C(=O)O.C(C)N(CC)CC
product | 1-(4-chlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol | 18.2 g, 63.6% | ClC1=CC=C(OC(C(C(C)(C)C)O)N2N=CN=C2)C=C1 | C14H18ClN3O2
